US07501411B2
Step 3: (4-Morpholin-4-yl-phenyl)-[5-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-carbamic acid tert-butyl ester
To a degassed solution of (4-morpholin-4-yl-phenyl)-(5-tributylstannanyl-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-carbamic acid tert-butyl ester (100 mg, 0.15 mmol) and 6-bromo-3,4-dihydro-2H-isoquinolin-1-one in DMF (1 mL) is added tetrakis(triphenylphosphine)palladium(0) (17 mg, 0.015 mmol) and the reaction mixture is stirred at 90° C. overnight. After removing the solvent in vacuo, the residue is purified by silica gel column chromatography. Elution with 1:1 petroleum ether:ethyl acetate and ethyl acetate affords the target compound as a yellow solid (30 mg, 37%).

reactant | (4-morpholin-4-yl-phenyl)-(5-tributylstannanyl-[1,2,4]triazolo[1,5-a]pyrazin-8-yl)-carbamic acid tert-butyl ester | 0.15 mmol, 100 mg | C(C)(C)(C)OC(N(C=1C=2N(C(=CN1)[Sn](CCCC)(CCCC)CCCC)N=CN2)C2=CC=C(C=C2)N2CCOCC2)=O
reactant | 6-bromo-3,4-dihydro-2H-isoquinolin-1-one | BrC=1C=C2CCNC(C2=CC1)=O | C9H8BrNO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.015 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-Morpholin-4-yl-phenyl)-[5-(1-oxo-1,2,3,4-tetrahydro-isoquinolin-6-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-carbamic acid tert-butyl ester | 30 mg, 37% | C(C)(C)(C)OC(N(C=1C=2N(C(=CN1)C=1C=C3CCNC(C3=CC1)=O)N=CN2)C2=CC=C(C=C2)N2CCOCC2)=O | C29H31N7O4
